US07582629B2
4-Chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
Oxalyl chloride (0.185 g, 1.46 mmol) was added dropwise to a solution of 4-hydroxy-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.250 g, 0.88 mmol) in DCM (15 mL). The mixture was refluxed for 2 days and then evaporated. The residue was dissolved in water and extracted 3 times with DCM. The combined organic layer was washed 2 times with water, dried through a phase separator and evaporated to give the title compound (0.245 g, 92%) as a solid; 1H NMR (500 MHz, CD3OD): δ 7.94-7.97 (m, 2H), 7.58-7.67 (m, 3H), 3.94 (t, 2H), 3.70 (t, 2H), 3.38 (s, 3H).

reactant | Oxalyl chloride | 1.46 mmol, 0.185 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-hydroxy-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.88 mmol, 0.250 g | OC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H13NO5S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.245 g, 92% | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
